US07399759B2
N,N-Dimethyl-N′-[[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]urea
A mixture of 2-[6-(aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (0.40 g, 1.0 mmol) and potassium carbonate (0.43 g, 3.1 mmol) was stirred at room temperature for 20 minutes. Successively, N,N-dimethylcarbamoyl chloride (0.47 g, 4.3 mmol) was added to the mixture, and the mixture was stirred at room temperature for 5 hrs. The precipitates were filtered, and the filtrate was concentrated. The residue was subjected to a silica gel column chromatography. The fractions eluted with chloroform-ethanol (40:1, v/v) were collected, concentrated and recrystallized from chloroform-hexane to give the titled compound (0.24 g, 68%) as white crystals.

reactant | 2-[6-(aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 1.0 mmol, 0.40 g | FC(C(=O)O)(F)F.NCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | potassium carbonate | 3.1 mmol, 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylcarbamoyl chloride | 4.3 mmol, 0.47 g | CN(C(=O)Cl)C | C3H6ClNO
product | N,N-Dimethyl-N′-[[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]urea | 0.24 g, 68% | CN(C(=O)NCC1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2)C | C17H16N4O2S
